US07884207B2
A mixture of ethyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate (5.2 g, 22.4 mmol) and 20% palladium hydroxide on carbon (0.50 g) in ethanol (190 mL) was hydrogenated at 35 psi (2.4×105 Pa) on a Parr apparatus for 5 h. The mixture was filtered through CELITE filter agent and the filtrate was concentrated. By 1H NMR analysis, the reaction was incomplete and the crude material was subjected to the reaction conditions again with fresh 20% palladium hydroxide on carbon (0.50 g) for another 24 h. The mixture was filtered through CELITE filter agent and the filtrate was concentrated to provide ethyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate, which was concentrated from chloroform to remove residual ethanol before using in the next reaction.

reactant | ethyl 4-hydroxy-4-(nitromethyl)piperidine-1-carboxylate | 22.4 mmol, 5.2 g | OC1(CCN(CC1)C(=O)OCC)C[N+](=O)[O-] | C9H16N2O5
solvent | ethanol | 190 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.50 g | [OH-].[OH-].[Pd+2]
product | ethyl 4-(aminomethyl)-4-hydroxypiperidine-1-carboxylate | NCC1(CCN(CC1)C(=O)OCC)O | C9H18N2O3
